US07851634B2
c) {1-(4-Isopropyl-5-oxo-tetrahydro-furan-2-yl)-3-[3-(3-methoxy-propyl)-1-methyl-1H-indol-5-ylmethyl]-4-methyl-pentyl}-carbamic acid tert-butyl ester
To the solution of 0.220 g 5-{1-amino-3-[3-(3-methoxy-propyl)-1-methyl-1H-indol-5-ylmethyl]-4-methyl-pentyl}-3-isopropyl-dihydro-furan-2-one in 10 ml dichloromethane are added 0.105 ml N,N-diisopropylethylamine and 0.134 g di-tert-butyl dicarbonate at 0° C. The mixture is stirred at room temperature for 16 hours and then concentrated by evaporation. The title compound is obtained as a white foam from the residue by means of flash chromatography (SiO2 60 F). Rf=0.29 (1:2 EtOAc-heptane). Rt=5.94 (gradient I).

reactant | 5-{1-amino-3-[3-(3-methoxy-propyl)-1-methyl-1H-indol-5-ylmethyl]-4-methyl-pentyl}-3-isopropyl-dihydro-furan-2-one | 0.220 g | NC(CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC)C1CC(C(O1)=O)C(C)C | C27H42N2O3
reactant | N,N-diisopropylethylamine | 0.105 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 0.134 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | {1-(4-Isopropyl-5-oxo-tetrahydro-furan-2-yl)-3-[3-(3-methoxy-propyl)-1-methyl-1H-indol-5-ylmethyl]-4-methyl-pentyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC)C1OC(C(C1)C(C)C)=O)=O | C32H50N2O5
